US06509341B1
2-Hydroxy-3-(N,N-dibutylcarbamoylmethoxy)-3,3-diphenylpropionic acid
1.42 g of methyl 2-hydroxy-3-(N,N-dibutylcarbamoylmethoxy)-3,3-diphenylpropionate were dissolved in 10 ml of dioxane and 4.8 ml of 1N sodium hydroxide solution and stirred at room temperature for 3 hours. Water was then added to the mixture, and the aqueous phase was extracted with ether. The aqueous phase was acidified with hydrochloric acid and extracted with ethyl acetate, and the organic phase was dried over magnesium sulfate. After removal of the solvent by distillation, 1.1 g of oil were isolated and were immediately employed further.

reactant | methyl 2-hydroxy-3-(N,N-dibutylcarbamoylmethoxy)-3,3-diphenylpropionate | 1.42 g | OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(N(CCCC)CCCC)=O | C26H35NO5
reactant | sodium hydroxide | 1N, 4.8 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Hydroxy-3-(N,N-dibutylcarbamoylmethoxy)-3,3-diphenylpropionic acid | 1.1 g | OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(N(CCCC)CCCC)=O | C25H33NO5
